US04960946
A mixture of 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohex-5-en-1-one (1.0 g, 0.0048 mol) in 2-propanol (40 mL) and Raney nickel (about 0.1 g) was shaken under hydrogen (37 psi) at 25~C for 16 hours. Subsequent workup yielded 3(3-methoxy-3-methylbut-1-yl)-5-methylcyclohexan-1ol (0.7 g) as a mixture of four diastereoisomers (ratio 8.1:20.6:57.8:7.8).

reactant | 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohex-5-en-1-one | 0.0048 mol, 1.0 g | COC(CCC1CC(C=C(C1)C)=O)(C)C | C13H22O2
solvent | 2-propanol | 40 mL | CC(C)O | C3H8O
catalyst | Raney nickel | about 0.1 g | [Ni] | Ni
product | 3(3-methoxy-3-methylbut-1-yl)-5-methylcyclohexan-1ol | 0.7 g | COC(CCC1CC(CC(C1)C)O)(C)C | C13H26O2
